US08067457B2
rel-N-[2-({(3R,4R)-1-[1-(3-methylphenyl)piperidin-4-yl]-4-propoxypyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide (94)
The title compound was synthesized in similar fashion to rel-N-{2-[((3R,4R)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}-4-propoxypyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide substituting 1-(3-methylphenyl)piperidin-4-one for 1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-one and was isolated as a white solid. 1H-NMR (CDCl3) δ: 0.84 (m, J=7.6 Hz, 3H), 1.42-1.70 (m, 3H), 1.87-1.96 (m, 3H), 2.23 (s, 3H), 2.30-2.35 (m, 2H), 2.62-2.82 (m, 4H), 3.29-3.41 (m, 2H), 3.50-3.60 (m, 3H), 3.70-3.74 (m, 1H), 4.07 (d, J=4.8 Hz, 2H), 4.26-4.30 (m, 1H), 6.58-6.67 (m, 4H), 7.04-7.09 (m, 2H), 7.49 (t, J=7.9 Hz, 1H), 7.69 (d, J=7.8 Hz, 1H), 7.95 (d, J=7.5 Hz, 1H), 8.04 (s, 1H). MS m/z: 547 (M+1).

reactant | rel-N-{2-[((3R,4R)-1-{1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-yl}-4-propoxypyrrolidin-3-yl)amino]-2-oxoethyl}-3-(trifluoromethyl)benzamide | N1(CCOCC1)C(=O)C1=CC=C(C=C1)N1CCC(CC1)N1C[C@H]([C@@H](C1)OCCC)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C33H42F3N5O5
reactant | 1-[4-(morpholin-4-ylcarbonyl)phenyl]piperidin-4-one | N1(CCOCC1)C(=O)C1=CC=C(C=C1)N1CCC(CC1)=O | C16H20N2O3
product | rel-N-[2-({(3R,4R)-1-[1-(3-methylphenyl)piperidin-4-yl]-4-propoxypyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | CC=1C=C(C=CC1)N1CCC(CC1)N1C[C@H]([C@@H](C1)OCCC)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C29H37F3N4O3
